US08729105B2
Preparation of 5-bromo-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1211586-75-2) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; LC-MS (UV peak area/ESI) 97%, 448.9532 (M−H)−.

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C8H5BrF3NO3
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-bromo-6-(2,2,2-trifluoroethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | BrC=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCC(F)(F)F | C12H7BrF6N4O3
